*$
*//-----------------------------------------------------------------------//
*//   Part No.    : EGPD350ELL222MK30H
*//   Date        : 2018/02/16
*//   Update 	  : 2018/06/15 Added SPICE model (-40deg.C/135deg.C)
*//		  : 2018/11/08 Corrected the SUBCKT
*//   Temperature : 20deg.C/-40deg.C/135deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2018 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EGPD350ELL222MK30H_20deg-C 1 2

C1 4 2 1.04e-03
C2 5 2 8.00e-04
C3 6 2 9.50e-05
R1 3 4 2.46e-02
R2 4 5 1.28e-02
R3 5 6 1.26e-02
L1 1 3 5.70e-09

.ENDS

.SUBCKT EGPD350ELL222MK30H_-40deg-C 1 2

C1 4 2 2.76e-06
C2 5 2 4.02e-04
C3 6 2 1.39e-03
R1 3 4 1.80e-01
R2 4 5 8.87e-02
R3 5 6 1.19e-01
L1 1 3 5.70e-09

.ENDS

.SUBCKT EGPD350ELL222MK30H_135deg-C 1 2

C1 4 2 1.77e-03
C2 5 2 3.84e-04
C3 6 2 9.33e-05
R1 3 4 1.11e-02
R2 4 5 1.02e-01
R3 5 6 1.02e+01
L1 1 3 5.70e-09

.ENDS
*$
